US09120777B2
F) tert-Butyl 4-(4-(benzyloxy)-3-iodo-2-oxopyridin-1(2H)-yl)piperidine-1-carboxylate
N-Iodosuccinimide (2.85 g) was added at room temperature to an acetic acid (57.6 mL) solution of tert-butyl 4-(4-(benzyloxy)-2-oxopyridin-1(2H)-yl)piperidine-1-carboxylate (4.43 g), and the mixture was stirred at room temperature for 2 hours. The reaction mixture was rendered basic by the addition of a saturated aqueous solution of sodium bicarbonate, followed by extraction with ethyl acetate twice. The obtained organic layer was washed with saturated saline and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (4.83 g).

reactant | N-Iodosuccinimide | 2.85 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | tert-butyl 4-(4-(benzyloxy)-2-oxopyridin-1(2H)-yl)piperidine-1-carboxylate | 4.43 g | C(C1=CC=CC=C1)OC1=CC(N(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C22H28N2O4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | 57.6 mL | C(C)(=O)O | C2H4O2
product | tert-Butyl 4-(4-(benzyloxy)-3-iodo-2-oxopyridin-1(2H)-yl)piperidine-1-carboxylate | 4.83 g | C(C1=CC=CC=C1)OC1=C(C(N(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O)I | C22H27IN2O4
